US07709466B2
b) 4-(1H-Indol-2-yl)-6-(1-methyl-1H-pyrazol-4-yl)-2H-pyridazin-3-one
2-[3-Methoxy-6-(1-methyl-1H-pyrazol-4-yl)-pyridazin-4-yl]-indole-1-carboxylic acid tert-butyl ester is dissolved in 8 ml dioxan and 8 ml aqueous 2N NaOH and heated by microwave irradiation for 90 min at 150° C. The solution is neutralized with aqueous HCl and the product is purified by preparative RP-HPLC eluting with a gradient of 0-100% acetonitrile in water (+0.01% trifluoroacetic acid). Yield 35 mg.

reactant | 2-[3-Methoxy-6-(1-methyl-1H-pyrazol-4-yl)-pyridazin-4-yl]-indole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(=CC2=CC=CC=C12)C1=C(N=NC(=C1)C=1C=NN(C1)C)OC | C22H23N5O3
reactant | NaOH | 2N | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | dioxan | 8 ml | O1CCOCC1 | C4H8O2
product | 4-(1H-Indol-2-yl)-6-(1-methyl-1H-pyrazol-4-yl)-2H-pyridazin-3-one | N1C(=CC2=CC=CC=C12)C=1C(NN=C(C1)C=1C=NN(C1)C)=O | C16H13N5O
